US07732604B2
Synthesis of (3R)—N-methyl-1-[1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl]pyrrolidin-3-amine
To a solution of 1-[1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl]pyrrolidine-3-carboxylic acid (143 mg, 0.328 mmol) and 1-hydroxybenzotriazole hydrate (93 mg, 0.69 mmol) in DMF (4.0 mL) was added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (132 mg, 0.690 mmol) followed by N-methyl morpholine (159 μL, 1.31 mmol). The resulting solution was stirred for 4 hours at room temperature then ammonia (7 N in methanol, 234 μL, 1.64 mmol) was added and the reaction was stirred overnight. To the reaction was added more 1-hydroxybenzotriazole hydrate, N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride, and N-methyl morpholine and the solution was stirred for 1 hour at room temperature then ammonia (0.5 N in dioxane) was added. After 6 hours, the solution was diluted with methyl tert-butyl ether (100 mL) and the organic solution was washed with saturated sodium bicarbonate (2×20 mL) and brine (20 mL). The combined aqueous layers were combined and lyophilized. The resulting solids were slurried in 1:1 methanol:chloroform, filtered and the filtrate was concentrated. The crude product was purified by flash chromatography using a Horizon purification system on a 40S column eluting with chloroform/7 N methanolic ammonia (0.1-6%) to afford the title compound as the racemic mixture (86 mg, 70%). The mixture was separated by SCF chromatography to afford pure the enantiomers in 100% ee (peak 1, 37%; peak 2, 42%).

reactant | 1-[1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl]pyrrolidine-3-carboxylic acid | 0.328 mmol, 143 mg | N1=CC=CC2=CC(=CC=C12)CN1N=NC=2C1=NC(=CN2)N2CC(CC2)C(=O)O | C19H17N7O2
reactant | 1-hydroxybenzotriazole hydrate | 0.69 mmol, 93 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.690 mmol, 132 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-methyl morpholine | 1.31 mmol, 159 μL | CN1CCOCC1 | C5H11NO
reactant | ammonia | 1.64 mmol, 7 N, 234 μL | N | H3N
reactant | ammonia | 0.5 N | N | H3N
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
solvent | methyl tert-butyl ether | 100 mL | C(C)(C)(C)OC | C5H12O
product | (3R)—N-methyl-1-[1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl]pyrrolidin-3-amine | CN[C@H]1CN(CC1)C1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2 | C19H20N8
